US07511033B2
3′-(8-Ethoxy-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-biphenyl-3-sulfonic acid tert-butylamide
The title compound was prepared from 4-(3-bromo-phenyl)-7-ethoxy-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one (Example B.3) (200 mg, 0.50 mmol) and commercially available 3-tert-butylsulfamoyl-benzeneboronic acid [CAS-no. 221290-14-8] (144 mg, 0.55 mmol) according to the general procedure II. Obtained as an off-white solid (169 mg, 65%). MS (ISP) 559.7 [(M+H)+]; mp 215-218° C.

reactant | 4-(3-bromo-phenyl)-7-ethoxy-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 0.50 mmol, 200 mg | BrC=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)OCC)C(F)(F)F | C18H14BrF3N2O2
reactant | 3-tert-butylsulfamoyl-benzeneboronic acid | 0.55 mmol, 144 mg | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | 3′-(8-Ethoxy-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-biphenyl-3-sulfonic acid tert-butylamide | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C=1CC(NC2=C(N1)C=C(C(=C2)C(F)(F)F)OCC)=O | C28H28F3N3O4S
